US04752645
(C) α-Ethyl-[2-(5-chloro-2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester
α -Ethyl-[2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl) ethyl]propanedioic acid, dimethyl ester (12.64 g, 28.10 mmole) was dissolved in methanol (600 ml) under argon at room temperature. Powdered stannous chloride dihydrate (32.98 g, 146.2 mmole, 5.2 eq) was added followed by concentrated hydrochloric acid (36 ml) with stirring. The solution turned clear and homogeneous. After 2 hours, Celite, ethyl acetate and saturated potassium carbonate solution were added with stirring. (The potassium carbonate solution was added portionwise). The suspension was filtered though a pad of Celite and the Celite pad was rinsed with ethyl acetate (3 times). The filtrate was concentrated to remove most of the organic solvents, and the residue was collected by suction-filtration. The crude material was used without further purification.

reactant | Ethyl-[2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl) ethyl]propanedioic acid, dimethyl ester | 28.10 mmole, 12.64 g | C(C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=CC=C(C=C1)OC | C22H24ClNO7
reactant | hydrochloric acid | 36 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 600 ml | CO | CH4O
product | α-Ethyl-[2-(5-chloro-2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | C(C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC(=C1)Cl)N)C1=CC=C(C=C1)OC | C22H26ClNO5
